US07326786B2
The similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, (R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamine and DIEA to give 2-[(R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one. LC-MS m/e 408 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | (R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamine | FC1=CC=C(C=C1)C[C@H](CO)N | C9H12FNO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(R)-2-(4-fluoro-phenyl)-1-hydroxymethyl-ethylamino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | FC1=CC=C(C=C1)C[C@H](CO)NC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C22H18FN3O2S
